US07635699B2
To a solution of 2-(6-cyano-5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidin-2-yl)acetic acid (72 mg, 0.2 mmol) in CH3CN (0.7 mL) were added HOAT (41 mg, 0.3 mmol) and EDC (77 mg, 0.4 mmol). After one min all of the solids had dissolved to produce a clear tan to brown solution. At 5 min, pyrrolidine (14.5 mg, 0.2 mmol) was added. At 20 min from the addition of pyrrolidine, the reaction was quenched with EtOAc (3 mL) and then washed with satd aq NaHCO3 (2×3 mL), satd aq NH4Cl (2×3 mL), and water (3 mL). The organic layer was dried with MgSO4, filtered, and concentrated to yield 5-(2,4-dichlorophenyl)-7-methyl-2-(2-oxo-2-(pyrrolidin-1-yl)ethyl)imidazo[1,2-a]pyrimidine-6-carbonitrile (46 mg, 56%) as a yellow-brown oil.

reactant | 2-(6-cyano-5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidin-2-yl)acetic acid | 0.2 mmol, 72 mg | C(#N)C=1C(=NC=2N(C1C1=C(C=C(C=C1)Cl)Cl)C=C(N2)CC(=O)O)C | C16H10Cl2N4O2
reactant | HOAT | 0.3 mmol, 41 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.4 mmol, 77 mg
reactant | pyrrolidine | 0.2 mmol, 14.5 mg | N1CCCC1 | C4H9N
solvent | CH3CN | 0.7 mL | CC#N | C2H3N
product | 5-(2,4-dichlorophenyl)-7-methyl-2-(2-oxo-2-(pyrrolidin-1-yl)ethyl)imidazo[1,2-a]pyrimidine-6-carbonitrile | 46 mg, 56% | ClC1=C(C=CC(=C1)Cl)C1=C(C(=NC=2N1C=C(N2)CC(N2CCCC2)=O)C)C#N | C20H17Cl2N5O
